US05091419
To a solution of 4.9 g of cyclohexylamine and 5.4 g of triethylamine in 100 ml of methylenechloride, was added 5.8 g of 1,4-phenylenedipropionyl chloride under ice cooling with stirring. Stirring was continued for 3 hours at room temperature, and 500 ml of water was added to the reaction solution. Conc.-HCl was added to the mixture until aqueous layer became weak-acidic. The solid material precipitated was collected by filtration, washed with methylenechloride and water in that order, and dried, giving 7.4 g of N,N'-dicyclohexyl-1,4-phenylenedipropionamide.

reactant | cyclohexylamine | 4.9 g | C1(CCCCC1)N | C6H13N
reactant | triethylamine | 5.4 g | C(C)N(CC)CC | C6H15N
reactant | 1,4-phenylenedipropionyl chloride | 5.8 g | C1(=CC=C(C=C1)CCC(=O)Cl)CCC(=O)Cl | C12H12Cl2O2
reactant | HCl | Cl | ClH
solvent | methylenechloride | 100 ml | C(Cl)Cl | CH2Cl2
solvent | water | 500 ml | O | H2O
product | N,N'-dicyclohexyl-1,4-phenylenedipropionamide | 7.4 g | C1(CCCCC1)NC(CCC1=CC=C(C=C1)CCC(=O)NC1CCCCC1)=O | C24H36N2O2
